US05336778
Step A: 3-n-Butyl-5-(4-chlorobenzylthio)-4-(4-nitrobenzyl)-4H-1,2,4-triazole
Reaction of 5-n-butyl-2,4-dihydro-4-(4-nitrobenzyl)-3H-1,2,4-triazole-3-thione with 4-chlorobenzyl chloride according to the procedure of Example 4, Step A (with reaction time shortened to 4.5 hours) gave a 90% yield of the title compound as an oil, homogeneous by TLC in 19:1 CH2Cl2 --MeOH; mass spectrum (FAB m/e 417 (M+1)+.

reactant | 5-n-butyl-2,4-dihydro-4-(4-nitrobenzyl)-3H-1,2,4-triazole-3-thione | C(CCC)C=1N(C(NN1)=S)CC1=CC=C(C=C1)[N+](=O)[O-] | C13H16N4O2S
reactant | 4-chlorobenzyl chloride | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
product | 3-n-Butyl-5-(4-chlorobenzylthio)-4-(4-nitrobenzyl)-4H-1,2,4-triazole | 90% yield | C(CCC)C1=NN=C(N1CC1=CC=C(C=C1)[N+](=O)[O-])SCC1=CC=C(C=C1)Cl | C20H21ClN4O2S
